US07595320B2
27 mg (74 μmol) of tetrabutylammonium iodide, followed by 96 mg (1.11 mmol) of piperazine, are added to a solution of 200 mg (0.37 mmol) of an approximately 70:30 mixture of tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate and tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-(4-chlorophenyl)-N′-methylhydrazinocarbonyl)-thieno[2,3-c]pyrazole-1-carboxylate in 6 mL of dimethylformamide under argon. The reaction mixture is stirred at a temperature in the region of 25° C. for 16 hours, and then treated with ice. It is then extracted with ethyl acetate and then twice with dichloromethane. The organic extracts are combined and then concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 40° C. The residue is dissolved in 3 mL of methanol and the solution is introduced into a microwave oven tube. The tube is stoppered and the reaction mixture is irradiated at a temperature in the region of 100° C. for twice 30 minutes. The reaction mixture is then concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 40° C. The residue is purified by preparative LC/MS (conditions B). 83 mg of N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]-4-piperazin-1-ylmethylbenzamide are thus obtained in the form of a yellow powder melting at 176° C. LC-MS-DAD-ELSD: 490(+)=M(+H)(+).

reactant | piperazine | 1.11 mmol, 96 mg | N1CCNCC1 | C4H10N2
reactant | tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate | ClCC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OC(C)(C)C)SC(=C3)C(=O)NN(C3=CC=CC=C3)C)C=C1 | C26H26ClN5O4S
reactant | tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-(4-chlorophenyl)-N′-methylhydrazinocarbonyl)-thieno[2,3-c]pyrazole-1-carboxylate | ClCC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OC(C)(C)C)SC(=C3)C(=O)NN(C)C3=CC=C(C=C3)Cl)C=C1 | C26H25Cl2N5O4S
catalyst | tetrabutylammonium iodide | 74 μmol, 27 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]-4-piperazin-1-ylmethylbenzamide | 83 mg | CN(NC(=O)C1=CC2=C(NN=C2NC(C2=CC=C(C=C2)CN2CCNCC2)=O)S1)C1=CC=CC=C1 | C25H27N7O2S
